US06352987B2
4-(6-Chloro-3a-hydroxy-8,8a-dihydro-3aH-indeno[1,2-d]thiazol-2-yl)benzenesulfonamide is prepared in a similar manner by reacting 2-bromo-5-chloroindan-1-one with 4-sulfamoylthiobenzamide. The compound has a melting point of 160° C.

reactant | 2-bromo-5-chloroindan-1-one | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | 4-sulfamoylthiobenzamide | S(N)(=O)(=O)C1=CC=C(C(=S)N)C=C1 | C7H8N2O2S2
product | 4-(6-Chloro-3a-hydroxy-8,8a-dihydro-3aH-indeno[1,2-d]thiazol-2-yl)benzenesulfonamide | ClC1=CC=2CC3C(N=C(S3)C3=CC=C(C=C3)S(=O)(=O)N)(C2C=C1)O | C16H13ClN2O3S2
